US06316177B1
Preparation of 3-(vinylbenzyloxy)-1-propanol (Mixture of Meta and Para Isomers)
Potassium tert-butoxide (23.07 g, 0.206 mol) was added to a stirred solution of 1,3-propanediol (44.92 g, 0.591 mol) in dry tetrahydrofuran (400 ml) under an atmosphere of nitrogen. The reaction mixture was stirred for 15 min then a solution of vinylbenzylchloride (mixture of meta and para isomers) (30.00 g, 0.197 mol) in dry tetrahydrofuran (100 ml) was added dropwise over 30 min. The reaction was heated at reflux overnight then the tetrahydrofuran was removed in vacuo and the residue taken-up in water (400 ml) and diethyl ether (400 ml). The organic phase was washed with water, dried (magnesium sulfate) and concentrated in vacuo to give a liquid. The liquid was purified by column chromatography over silica gel (eluent 3:1:petrol ether/ethyl acetate, then ethyl acetate) to give the title compound (30.59 g, 0.159 mol, 81%) as a straw colored liquid.

reactant | Potassium tert-butoxide | 0.206 mol, 23.07 g | CC(C)([O-])C.[K+]
reactant | 1,3-propanediol | 0.591 mol, 44.92 g | C(CCO)O | C3H8O2
reactant | vinylbenzylchloride | 0.197 mol, 30.00 g | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(vinylbenzyloxy)-1-propanol | 0.159 mol, 30.59 g, 81% | C(=C)C(C1=CC=CC=C1)OCCCO | C12H16O2
